US05703106
At 0° C. a solution of hydroxylamine-O-sulfonic acid (93 g) in dry methanol (700 ml) is added over 2 min to a solution of crude 3-dimethylamino-1-p-tolylprop-2-en-1-one (148 g) in dry methanol (1 l). The mixture is stirred at ambient temperature for 20 min, then carefully poured into a solution of sodium bicarbonate (150 g) in water (1 l). After standing at room temperature over night (for convenience) the precipitate is collected and dried to give crude 5-(4-methylphenyl)-isoxazole. In order to obtain purer product, the material can be purified by flash cromatography on silica gel, using hexane/ethyl acetate (4:1) as eluent.

reactant | hydroxylamine-O-sulfonic acid | 93 g | NOS(=O)(=O)O | H3NO4S
reactant | 3-dimethylamino-1-p-tolylprop-2-en-1-one | 148 g | CN(C=CC(=O)C1=CC=C(C=C1)C)C | C12H15NO
reactant | sodium bicarbonate | 150 g | C([O-])(O)=O.[Na+]
solvent | methanol | 700 ml | CO | CH4O
solvent | methanol | 1 l | CO | CH4O
solvent | water | 1 l | O | H2O
product | 5-(4-methylphenyl)-isoxazole | CC1=CC=C(C=C1)C1=CC=NO1 | C10H9NO
